US08202873B2
4-(1-Ethyl-3,5-dimethyl-1H-pyrazol-4-ylmethyl)-3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl hydrochloride
To a stirred suspension of 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride (0.3 g, 0.906 mmol, 1 eq) and 1-ethyl-3,5-dimethyl-1H-pyrazole-4-carbaldehyde (207 mg, 1.36 mmol, 1.5 eq) in tetrahydrofuran (10 mL) add sodium triacetoxyborohydride (480 mg, 2.26 mmol, 2.5 eq) in one portion as a solid. Stir the mixture at room temperature under nitrogen for 19 hr. Add 2M aqueous sodium hydroxide solution (10 ml) and DCM (20 ml) separate and extract the aqueous layer with DCM (20 ml). Combine the organics, dry over magnesium sulfate, filter and concentrate. Purify by high pH reverse phase HPLC. Dissolve this material (49 mg, 0.12 mmol), in the minimum quantity of 50% aqueous acetonitrile. Add 2M aqueous hydrogen chloride (60 μL, 0.12 mmol) and lyophilize to give the title compound (58 mg, 15%). MS (ES): m/z=395.2 [M+H]+.

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 0.906 mmol, 0.3 g, 1 eq | Cl.Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1
reactant | 1-ethyl-3,5-dimethyl-1H-pyrazole-4-carbaldehyde | 1.36 mmol, 207 mg, 1.5 eq | C(C)N1N=C(C(=C1C)C=O)C | C8H12N2O
reactant | sodium triacetoxyborohydride | 2.26 mmol, 480 mg, 2.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 2M, 10 ml | [OH-].[Na+]
reactant | hydrogen chloride | 0.12 mmol, 2M, 60 μL | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(1-Ethyl-3,5-dimethyl-1H-pyrazol-4-ylmethyl)-3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl hydrochloride | 58 mg, 15% | Cl.C(C)N1N=C(C(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)F)C | InChI=1S/C22H27FN6.ClH/c1-4-29-17(3)20(16(2)26-29)15-27-11-13-28(14-12-27)22-21(24-9-10-25-22)18-5-7-19(23)8-6-18;/h5-10H,4,11-15H2,1-3H3;1H
